US07842758B2
4-Ethynyl-N,N-dihexylaniline
4-[(Trimethylsilyl)ethynyl]-N,N-dihexylaniline (1.206 g, 3.37×10−3 mol), K2CO3 (0.558 g, 4.04×10−3 mol), THF (20 ml) and MeOH (20 ml) were added to a 100-ml round-bottom flask. The reaction mixture was stirred at room temperature for 4.5 h under Ar. After the solvent was evaporated, the residue was chromatographed on silica gel with 4:1 hexane:CHCl3 as the eluent. Yield=0.858 g (89% based on 1.206 g of 4-[(trimethylsilyl)ethynyl]-N,N-dihexylaniline). 1H NMR (250 MHz, CDCl3): δ 7.32 (d, 2H, J=8.9 Hz, Ph), 6.52 (d, 2H, J=8.9 Hz, Ph), 3.25 (t, 4H, J=7.7 Hz, —NCH2—), 2.96 (s, 1H, ethynyl-H), 1.46-1.64 (m, 4H, —NCH2CH2—), 1.20-1.42 (m, 12H, —CH2—), 0.90 (t, 6H, J=6.6 Hz, —CH3). CI MS m/z: 286.253 ((M+H)+) (calcd 286.253).

reactant | 4-[(Trimethylsilyl)ethynyl]-N,N-dihexylaniline | 3.37×10−3 mol, 1.206 g | C[Si](C)(C)C#CC1=CC=C(N(CCCCCC)CCCCCC)C=C1 | C23H39NSi
reactant | K2CO3 | 4.04×10−3 mol, 0.558 g | C(=O)([O-])[O-].[K+].[K+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
product | 4-Ethynyl-N,N-dihexylaniline | C(#C)C1=CC=C(N(CCCCCC)CCCCCC)C=C1 | C20H31N
